2198-03-12 08:16:00 Physician Resident Progress Note
Chief Complaint: bleeding from facial tumor
   24 Hour Events:
 INVASIVE VENTILATION - START [**2198-3-11**] 06:34 [**Name (NI) 4331**]
   Overnight, pt recieved total of 6 u PRBCs since transfer to unit. Had
   continuing serosanguinous drainage into bandages
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2198-3-12**] 12:15 AM
   Cefazolin - [**2198-3-12**] 12:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2198-3-11**] 07:04 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-19**] intubation, sedation
   Flowsheet Data as of  [**2198-3-12**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 74 (63 - 86) bpm
   BP: 116/53(68) {90/39(52) - 124/62(77)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  5,382 mL
                                                                  1,356 mL
   PO:
           TF:
   IVF:
                                                                  4,053 mL
                                                                    910 mL
   Blood products:
                                                                  1,329 mL
                                                                    446 mL
   Total out:
                                                                  1,045 mL
                                                                    705 mL
   Urine:
                                                                  1,045 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,337 mL
                                                                    651 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/38/102/21/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: fungating right facial mass. Nasotracheal
   intubation
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   338 K/uL
   9.3 g/dL
   111 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   15 mg/dL
   110 mEq/L
   137 mEq/L
   27.4 %
   41.7 K/uL
        [image002.jpg]
                             [**2198-3-11**]  05:57 PM
                             [**2198-3-11**]  08:38 PM
                             [**2198-3-12**]  01:59 AM
                             [**2198-3-12**]  06:00 AM
   WBC
   41.7
   Hct
   21
   25.2
   27.4
   Plt
   342
   338
   Cr
   0.8
   0.8
   0.9
   TCO2
   24
   Glucose
   111
   123
   111
   Other labs: PT / PTT / INR:14.9/32.3/1.3, Lactic Acid:1.4 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
   ASSESSMENT AND PLAN: 57M with squamous carcinoma involvement of right
   face and hostory of facial bleeding, transferred to the [**Hospital Unit Name 10**] with
   active facial bleeding.
   .
   #.Facial Bleeding/ facial mass: From large fungating growth of squamous
   cell carcinoma. The patient is actively being transfused blood (6u
   PRBCS Overnight, 7^th unit hanging now) and Saline.  His BP has
   remained stable since ICU transfer (baseline is 90
s/60
s) and he has
   never been tachycardic.  Coags WNL.
   -follow Hct Q 6 and transfuse for Hct <28
   - f/u ENT recs- will staff with attg today
   - pt to go to neuro rads today for possible embolization
   -trying to get records from [**Hospital1 **] today
   -OMFS states ENT is the service that would offer any surgeries if
   possible
   - palliative care c/s today
   -heme/onc consult today
   -check ionized Ca given large amounts of transfusions.
   -upload OSH  CT scans today into centricity
   .
   #. Respiratory Status: Patient emergently underwent nasotracheal
   intubation in preparation of procedure yesterday night.  Doing well
   overnight on [**5-22**]. No respiratory issues, just protecting airway today
   until after procedure then expect to extubate as long as not actively
   bleeding and good mental status. .
   .
   #. Wound: Cultured with acinetobacter, enterobacter cloacae, and MSSA
   as OSH .
   -cover with flagyl (given risks for oral pathogens and poor dentition),
   Cipro, cefazolin
   ICU Care
   Nutrition: NPO for now until extubated (expect this evening)
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2198-3-11**] 06:50 PM
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: sister and nephew- numbers in chart. Plan
   family mtg today at 430 with team
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2198-03-12 09:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: invasive Rt facial SCC with anemia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2198-3-11**] 06:34 PM
 6 units of PRBC
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2198-3-12**] 12:15 AM
   Cefazolin - [**2198-3-12**] 12:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2198-3-11**] 07:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-12**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 77 (63 - 86) bpm
   BP: 121/59(74) {90/39(52) - 125/62(77)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  5,382 mL
                                                                  1,538 mL
   PO:
           TF:
   IVF:
                                                                  4,053 mL
                                                                    929 mL
   Blood products:
                                                                  1,329 mL
                                                                    609 mL
   Total out:
                                                                  1,045 mL
                                                                    865 mL
   Urine:
                                                                  1,045 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,337 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 909 (708 - 909) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/38/102/21/-1
   Ve: 9.5 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   338 K/uL
   111 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   15 mg/dL
   110 mEq/L
   137 mEq/L
   27.4 %
   41.7 K/uL
        [image002.jpg]
                             [**2198-3-11**]  05:57 PM
                             [**2198-3-11**]  08:38 PM
                             [**2198-3-12**]  01:59 AM
                             [**2198-3-12**]  06:00 AM
   WBC
   41.7
   Hct
   21
   25.2
   27.4
   Plt
   342
   338
   Cr
   0.8
   0.8
   0.9
   TCO2
   24
   Glucose
   111
   123
   111
   Other labs: PT / PTT / INR:14.9/32.3/1.3, Lactic Acid:1.4 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR - clear.
   Microbiology: No new micro data.  OSH
 staph aureus, acinetobacter,
   enterococcus from wound
   Assessment and Plan
   57M with large squamous carcinoma involvement of right face,
   transferred to [**Hospital1 1**] for second opinion.  Then had significant bleed
   from tumor requiring nasal intubation and 6 units of PRBC.
   # Facial SCC: Causing significant bleeding.  Still transfusion
   dependent.
   - ENT following
   - Embolization per neuroradiology
   - Follow Hct, transfuse while actively bleeding to keep > 25
   # Respiratory Status:  Emergently underwent nasotracheal intubation for
   airway protection and in anticipation of embolization.
   - Remains intubated for airway protection/procedures
   - PS trial this afternoon after definite procedure and extubate since
   he did not want heroic measures
   # Wound: OSH cultured with acinetobacter, enterobacter cloacae, and
   MSSA.
   - Cipro/cefazolin; add flagyl for anaerobic coverage
   # Elevated WBC count: Likely [**2-19**] to leukemoid reaction to chronic
   severe anemia as well as facial infection ?cavernous thrombosis
   - If spikes, consider pan culture to r/o other infectious causes
   Other issues per resident note
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2198-3-11**] 06:50 PM
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), family meeting later today with
   ENT/ palliative care colleagues
   Disposition : ICU
   Total time spent: 45 minutes

2198-03-13 08:58:00 Physician Attending Progress Note
Chief Complaint: Hemorrhage from facial SCC
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HD stable, Hct slowly drifting, WBC high but improved from 70K from
   OSH.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2198-3-13**] 12:32 AM
   Cefazolin - [**2198-3-13**] 06:00 AM
   Ciprofloxacin - [**2198-3-13**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-13**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 83 (76 - 94) bpm
   BP: 111/53(68) {96/49(60) - 130/77(88)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,244 mL
                                                                    677 mL
   PO:
             TF:
   IVF:
                                                                  1,518 mL
                                                                    677 mL
   Blood products:
                                                                    726 mL
   Total out:
                                                                  2,395 mL
                                                                    930 mL
   Urine:
                                                                  2,395 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -151 mL
                                                                   -253 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 528 (520 - 702) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 11.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   358 K/uL
   109 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   12 mg/dL
   109 mEq/L
   138 mEq/L
   26.4 %
   49.0 K/uL
        [image002.jpg]
                             [**2198-3-11**]  05:57 PM
                             [**2198-3-11**]  08:38 PM
                             [**2198-3-12**]  01:59 AM
                             [**2198-3-12**]  06:00 AM
                             [**2198-3-12**]  11:39 AM
                             [**2198-3-12**]  03:07 PM
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
   WBC
   41.7
   49.0
   Hct
   21
   25.2
   27.4
   28.3
   29.1
   31
   27.0
   26.4
   Plt
   342
   338
   358
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   24
   Glucose
   111
   123
   111
   109
   Other labs: PT / PTT / INR:14.9/32.3/1.3, Lactic Acid:1.4 mmol/L,
   Ca++:10.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
   57 y/o M with large R face SCC with brisk hemorrhage through it.
   # Facial SCC:
   - ENT said not a candidate for surgical debridement given brisk bleed
   from mass, and mostly necrotic locally invasive tissue.
   - Embolization per neuroradiology today
   - Follow Hct [**Hospital1 **], transfuse while actively bleeding to keep > 25
   - Heme onc and rad onc consults for palliation
   # ID: Wound cultured with acinetobacter, enterobacter cloacae, and
   MSSA.
   - Continue Cipro and cefazolin per sensitivities and clindamycin to
   empirically cover anaerobes
   - Follow WBC, temp
   # Respiratory Status:  emergently underwent nasotracheal intubation for
   airway protection and in anticipation of embolization.
   - Remains intubated for airway protection/procedures
   - SBT and extubate soon after procedures
   - Unable to advance NTT, since it is hubbed tip 11 cm from carina, safe
   at the moment
   # Leukocytosis: BM stress of brisk bleed/anemia vs paraneoplastic from
   cancer vs infection from organisms cultured from wound as above. Follow
   clinically.
   # Code status: DNR.
   It will be important to readdress goals of care with the patient and
   family. We will try to wean sedation in the AM and discuss his wishes
   again. I would favor proceeding with IR embolization procedure in 2
   days only if patient wishes to live in hospice care. If he expresses
   wish to be CMO, the procedure should not be done. Palliative care
   consulted
 their input is much appreciated. They have already seen the
   patient but will return tomorrow.
   ICU Care
   Nutrition:
   Comments: S/S consult after extubation
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   20 Gauge - [**2198-3-12**] 12:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication:  Comments: Sister HCP
   [**Name (NI) 129**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2198-03-13 10:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: SCC facial mass and bleed
   24 Hour Events:
   - transferred from [**Hospital Unit Name 10**]
   - for embolization in the AM
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2198-3-13**] 12:32 AM
   Cefazolin - [**2198-3-13**] 06:00 AM
   Ciprofloxacin - [**2198-3-13**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-13**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 76 (76 - 94) bpm
   BP: 117/50(68) {96/49(60) - 129/77(88)} mmHg
   RR: 22 (16 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,244 mL
                                                                    723 mL
   PO:
             TF:
   IVF:
                                                                  1,518 mL
                                                                    723 mL
   Blood products:
                                                                    726 mL
   Total out:
                                                                  2,395 mL
                                                                  1,050 mL
   Urine:
                                                                  2,395 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -151 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 528 (520 - 702) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 11.7 L/min
   Physical Examination
   Gen: nad, face wrapped
   Heent: large mass over right face, serosanguinous drainage
   Pulm: ctab, no w/r/r
   Abd: s/nt/nd/nabs
   Extr: trace LE edema
   Labs / Radiology
   358 K/uL
   9.0 g/dL
   109 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   12 mg/dL
   109 mEq/L
   138 mEq/L
   26.4 %
   49.0 K/uL
        [image002.jpg]
                             [**2198-3-11**]  05:57 PM
                             [**2198-3-11**]  08:38 PM
                             [**2198-3-12**]  01:59 AM
                             [**2198-3-12**]  06:00 AM
                             [**2198-3-12**]  11:39 AM
                             [**2198-3-12**]  03:07 PM
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
   WBC
   41.7
   49.0
   Hct
   21
   25.2
   27.4
   28.3
   29.1
   31
   27.0
   26.4
   Plt
   342
   338
   358
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   24
   Glucose
   111
   123
   111
   109
   Other labs: PT / PTT / INR:14.9/32.3/1.3, Lactic Acid:1.4 mmol/L,
   Ca++:10.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   57 y/o M with large R face SCC with brisk hemorrhage through it.
   #.Facial Bleeding/facial mass: From large fungating growth of squamous
   cell carcinoma. The patient has multiple blood transfusions (6 here)
   and IVF.  O/W, he is HD stable.  ENT does not feel he is a candidate
   for surgical intervention. Plan is for  embolization in the morning.
   -keep wound dressed
   - Follow Hct [**Hospital1 **], transfuse to keep HCT > 25
   -embolization today
   -f/u hematology/oncology recs and neuroradiology recs re: palliative
   radiation, further plan, etc
   -palliative care consult pending above
   .
   #. Respiratory Status: Patient emergently underwent nasotracheal
   intubation in preparation of procedure this evening and to protect
   airway. He is oxygenating and ventilating well on PSV 5/5.  Sedated,
   following commands. ETT is high by last CXR.
   -cont nasotracheal intubation with VAP bundle.
   -CXR for placement of ETT, revise prn
   .
   #. Wound: Cultured with acinetobacter, enterobacter cloacae, and MSSA
   at OSH. Will covering with cefazolin and ciprofloxacin as per
   sensitivities as well as clinda for oropharyngeal flora (poor
   dentition).
   - Continue Cipro per sensitivities and clindamycin to empirically cover
   anaerobes. Can d/c cephazolin given MSSA is sensitive to clinda.
   .
   # psych: unclear psych issues, on no medications.  Background info.
   .
   # Leukocytosis: BM stress of brisk bleed/anemia vs paraneoplastic from
   cancer vs infection from organisms cultured from wound as above. Follow
   clinically.
   .
   #. FEN: NPO until after procedures.  S/S
   .
   # PPx:
   - pneumoboots, bowel regimen, pain management, PPI
   .
   # Code status: DNR. Palliative care consult.  Discussion with patient
   after extubation.
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   20 Gauge - [**2198-3-12**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-03-14 08:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cefazolin discontinued
   - Neuro IR performed embolization of bilateral sphenopalatine arteries
   - remained intubated given plan for facial artery embolization in 48
   hours
   - Sedation changed to Propofol post-procedure
   - Vitamin K 1 mg IV given for INR 1.6
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-3-13**] 06:00 AM
   Ciprofloxacin - [**2198-3-14**] 12:40 AM
   Clindamycin - [**2198-3-14**] 07:23 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-14**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 85 (74 - 96) bpm
   BP: 124/55(72) {109/47(64) - 145/71(86)} mmHg
   RR: 25 (19 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,620 mL
                                                                    514 mL
   PO:
             TF:
   IVF:
                                                                  1,620 mL
                                                                    514 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    390 mL
   Urine:
                                                                  2,005 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -385 mL
                                                                    124 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (330 - 600) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 14.8 L/min
   Physical Examination
   Gen: nad, fungating mass in right side of the face,  nasotrachial tube
   in place, sedated
   Heent: large mass over right face, MMM
   Pulm: ctab
   Heart: s1s2 rrr
   Abd: soft ntnd
   Extr: trace LE edema
   neuro: limited by sedation
   Labs / Radiology
   388 K/uL
   8.6 g/dL
   134 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   13 mg/dL
   110 mEq/L
   141 mEq/L
   25.6 %
   59.1 K/uL
        [image002.jpg]
                             [**2198-3-11**]  08:38 PM
                             [**2198-3-12**]  01:59 AM
                             [**2198-3-12**]  06:00 AM
                             [**2198-3-12**]  11:39 AM
                             [**2198-3-12**]  03:07 PM
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
   WBC
   41.7
   49.0
   59.1
   Hct
   21
   25.2
   27.4
   28.3
   29.1
   31
   27.0
   26.4
   27.8
   25.6
   Plt
   342
   338
   358
   388
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   24
   Glucose
   123
   111
   109
   134
   Other labs: PT / PTT / INR:17.6/33.4/1.6, Lactic Acid:1.4 mmol/L,
   Ca++:10.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   57 y/o M with large R face SCC with brisk hemorrhage through it.
   #.Facial Bleeding/facial mass: From large fungating growth of squamous
   cell carcinoma. The patient has multiple blood transfusions (6 here)
   and IVF.  O/W, he is HD stable.  ENT does not feel he is a candidate
   for surgical intervention. Embolized sphenopalatine arteries
   yesterday.  Plan for facial artery embolization tomorrow.
   -keep wound dressed
   - Follow Hct daily unless active bleeding, transfuse to keep HCT > 25
   -embolization as above
   -f/u hematology/oncology recs and neuroradiology recs re: palliative
   radiation, further plan, etc
   -palliative care recs are appreciated
   - will consult rad/onc
   - family meeting is planned today
   .
   #. Respiratory Status: Patient emergently underwent nasotracheal
   intubation in preparation of procedure this evening and to protect
   airway. He is oxygenating and ventilating well.  Sedated, following
   commands. ETT is high by last CXR.
   -cont nasotracheal intubation with VAP bundle.
   -CXR for placement of ETT, revise prn
   .
   #. Wound: Cultured with acinetobacter, enterobacter cloacae, and MSSA
   at OSH. Will covering with ciprofloxacin as per sensitivities as well
   as clinda for oropharyngeal flora (poor dentition).   Cefazolin
   discontinued.
   - Continue Cipro per sensitivities and clindamycin to empirically cover
   anaerobes.  d/c cephazolin given MSSA is sensitive to clinda.
   .
   # psych: unclear psych issues, on no medications.  Background info.
   .
   # Leukocytosis: BM stress of brisk bleed/anemia vs paraneoplastic from
   cancer vs infection from organisms cultured from wound as above. Follow
   clinically.
   - will check diff
   - heme/onc is following
   .
   # Hypercalcemia:  Mild.  ? secondary to bone erosion vs. PTHrP.
   - IV hydration
   - trend Ca
   .
   #. FEN: NPO until after procedures.  S/S
   .
   # PPx:
   - pneumoboots, bowel regimen, pain management, PPI
   .
   # Code status: DNR. Palliative care consult.  Discussion with patient
   after extubation.
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   20 Gauge - [**2198-3-12**] 12:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-03-14 11:22:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   Currently stable wrt respiratory and hemodynamic status. Patient has a
   history of not wanting aggressive medical interventions.  Most recent
   Hct is 29.1. Embolized in neuroIR on [**3-13**], but needs another round.
   24 Hour Events:
   Embolized bilateral sphenopalatine arteries at IR. Planning on doing
   facial artery embolization in 48h. Given vit K for INR 1.6. Facial
   lesion growing acinetobacter, enterobacter.
 OR SENT - At [**2198-3-13**] 01:30 PM
 OR RECEIVED - At [**2198-3-13**] 04:00 PM
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-3-13**] 06:00 AM
   Ciprofloxacin - [**2198-3-14**] 12:40 AM
   Clindamycin - [**2198-3-14**] 07:23 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-14**] 12:00 AM
   Midazolam (Versed) - [**2198-3-14**] 10:00 AM
   Fentanyl - [**2198-3-14**] 10:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-14**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 75 (74 - 96) bpm
   BP: 127/62(77) {113/47(64) - 145/71(86)} mmHg
   RR: 24 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,620 mL
                                                                    630 mL
   PO:
             TF:
   IVF:
                                                                  1,620 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    730 mL
   Urine:
                                                                  2,005 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -385 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 492 (330 - 600) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 11.2 L/min
   Physical Examination
   Gen: NAD, intubated, sedated
   HEENT: mmm, large fungating mass covering R cheek without active
   bleeding
   CV: RRR no m/r/g
   Pulm: CTAb anterior
   Abd: s/nt/nd +BS
   Ext: no edema
   Neuro: Sedated, not responding to voice
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  No rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   388 K/uL
   134 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   13 mg/dL
   110 mEq/L
   141 mEq/L
   25.6 %
   59.1 K/uL
        [image002.jpg]
                             [**2198-3-11**]  08:38 PM
                             [**2198-3-12**]  01:59 AM
                             [**2198-3-12**]  06:00 AM
                             [**2198-3-12**]  11:39 AM
                             [**2198-3-12**]  03:07 PM
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
   WBC
   41.7
   49.0
   59.1
   Hct
   21
   25.2
   27.4
   28.3
   29.1
   31
   27.0
   26.4
   27.8
   25.6
   Plt
   342
   338
   358
   388
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   24
   Glucose
   123
   111
   109
   134
   Other labs: PT / PTT / INR:17.6/33.4/1.6, Lactic Acid:1.4 mmol/L,
   Ca++:10.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
   57 y/o m with large R facial SCC with bleeding.
   Plan:
   1. SCC bleeding: Plan for facial embolization tomorrow. Check hct q24h.
   Hct >25%
   2. Resp: Intubated for airway protection, cont. until embolization
   3. Hypercalcemia: [**Month (only) 11**] be [**2-19**] malignancy with bony destruction
   -discuss with heme once
   4. Leukocytosis: Severly elevated WBC, slight L shift
   -f/u Heme recs
   5: FEN: Keep NPO for procedure
   6. Full code
   ICU Care
   Nutrition:
   Comments: NPO for procedure tomorrow.
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   20 Gauge - [**2198-3-12**] 12:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: Plan for family meeting to discuss goals of
   care.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   Addendum: patient seen and examined on rounds. I agree with the
   findings and plan as outlined in Dr. [**First Name (STitle) 1068**]
s note. The above note
   reflects our discussion. I would add the following:
   57 yr old with T4 cutaneous squamous cell carcinoma involving the right
   face c/b severe bleeding down to a Hct of 6 requiring ~20 units of
   PRBC. He underwent embolization of the sphenopalatine artery yesterday
   with plan to embolize facial artery tomorrow. Remains intubated for the
   procedures, currently sedated on versed 2mg and fent 75 mcg. Wbc has
   increased to 59 today, question of leukemoid reaction. I observed the
   mass during dressing change by ENT intern. There is ongoing oozing,
   felt to be worse compared to yesterday. The CT head was reviewed but
   final report is pending. There will be a family meeting today to decide
   on goals of care, including the utility of 2nd embolization vs extubate
   today and d/c to hospice, etc.  40 minutes critical care time

2198-03-15 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: SCC facial mass
   24 Hour Events:
   - spiked a temp, pancultured
   - family meeting, patient to receive facial artery embolization, will
   discuss further care after the procedure, palliative care is involved
   as well
   - rad/onc is aware of the patient, need to reconsult in AM
   - hypercalcemia, IV fluids written
   - gave another 1 mg vit K once for coagulopathy
   - pulled Nasal tracheal tube, anesthesia called for intubation
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-3-13**] 06:00 AM
   Clindamycin - [**2198-3-15**] 12:00 AM
   Ciprofloxacin - [**2198-3-15**] 12:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2198-3-14**] 04:30 PM
   Midazolam (Versed) - [**2198-3-14**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-15**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.7
C (98.1
   HR: 101 (71 - 117) bpm
   BP: 125/74(86) {103/46(60) - 161/79(96)} mmHg
   RR: 28 (16 - 37) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 78 Inch
             Total In:
                                                                  1,140 mL
                                                                  1,088 mL
   PO:
             TF:
   IVF:
                                                                  1,140 mL
                                                                  1,088 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    620 mL
   Urine:
                                                                  2,060 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -920 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 458 (361 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 85%
   ABG: ///27/
   Ve: 10.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   421 K/uL
   8.6 g/dL
   114 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.2 mEq/L
   9 mg/dL
   110 mEq/L
   144 mEq/L
   26.5 %
   51.6 K/uL
        [image002.jpg]
                             [**2198-3-12**]  06:00 AM
                             [**2198-3-12**]  11:39 AM
                             [**2198-3-12**]  03:07 PM
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
   WBC
   41.7
   49.0
   59.1
   60.3
   51.6
   Hct
   27.4
   28.3
   29.1
   31
   27.0
   26.4
   27.8
   25.6
   27.3
   26.5
   Plt
   338
   358
   388
   378
   421
   Cr
   0.9
   0.9
   0.8
   0.6
   Glucose
   111
   109
   134
   114
   Other labs: PT / PTT / INR:17.0/33.9/1.5, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:10.1 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   57 y/o M with large R face SCC with brisk hemorrhage through it.
   #. Respiratory Status: Patient emergently underwent nasotracheal
   intubation in preparation of procedure in early admission for
   procedures and to protect airway, now intubated x ~ 5 days.  Pulled NTT
   this AM.  Acute hypoxia overnight and change in CXR likely represents
   mucous plug, though timing of events not clearly chronologic, thus ?
   other etiologies for hypoxia.  Underwent oral intubation in OR this AM
   for hypoxia, not for procedures.  Family continues to stress desire to
   extubate when possible.
   -bronch today to attempt mucous plug removal
   -wean and extubate ASAP pending ability to breath independently after
   bronch, or other reasons for hypoxia must be excluded.  Currently
   satting well on high fiO2
   - propofol for sedation, change fentanyl to PRN in preparation for
   extubation
   - consider broadening antibiotics to cover VAP
   # Fevers: spiking fevers to 101.  Antibiotic coverage for his wound.
   Other concerns would be VAP given 4-5 days of intubation, increasing
   sputum.  WBC overall stable.  Other sources of fever could be
   medications, cancer, recent embolization.
   - bronch today
   - expand antibiotics to cover VAP pending results of bronch
   #.Facial Bleeding/facial mass: From large fungating growth of squamous
   cell carcinoma. The patient has multiple blood transfusions.  O/W, he
   is HD stable.  ENT does not feel he is a candidate for surgical
   intervention. Embolized sphenopalatine arteries yesterday.  Plan for
   facial artery embolization only prn for bleeding.
   -keep wound dressed
   - Follow Hct daily unless active bleeding, transfuse to keep HCT > 25
   -embolization as above
   -f/u hematology/oncology recs and neuroradiology recs re: palliative
   radiation, further plan, etc
   -palliative care recs are appreciated
   - will consult rad/onc
 to see after extubation
   #. Wound: Cultured with acinetobacter, enterobacter cloacae, and MSSA
   at OSH. Will covering with ciprofloxacin as per sensitivities for
   acinetobacter and clinda for enterobacter and MSSA per sensitivies and
   empirically for oropharyngeal flora (poor dentition).   Cefazolin
   discontinued.
   - Continue antibiotics
   # psych: unclear psych issues, on no medications.  Background info.
   # Leukocytosis: BM stress of brisk bleed/anemia vs paraneoplastic from
   cancer vs infection from organisms cultured from wound as above. Follow
   clinically.   See above re: fevers.
   - will check diff
   - heme/onc is following
   # Hypercalcemia:  Mild.  ? secondary to bone erosion vs. PTHrP.
   - IV hydration
   - trend Ca
   #. FEN: Will need OGT if not extubated today.  S/S after extubation
   # PPx:
   - pneumoboots, bowel regimen, pain management, PPI
   # Code status: DNR. Palliative care consult.  Discussion with patient
   after extubation.
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   20 Gauge - [**2198-3-12**] 12:12 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-03-15 12:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   Currently hemodynamic status. Patient has a history of not wanting
   aggressive medical interventions.  Most recent Hct is 29.1. Embolized
   in neuroIR on [**3-13**] shenopalatine artery embolized, with plan for facial
   artery embolization.
   Spiked to 102, cultures sent.
   24 Hour Events:
   Self-extubated this AM. went to OR for ETT placement. Spiked temp, was
   cultured. Family meeting took place. Got vit K and IVF.
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2198-3-15**] 06:00 AM
 FEVER - 101.4
F - [**2198-3-14**] 04:00 PM
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Cefazolin - [**2198-3-13**] 06:00 AM
   Ciprofloxacin - [**2198-3-15**] 12:00 AM
   Clindamycin - [**2198-3-15**] 08:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2198-3-14**] 04:30 PM
   Fentanyl - [**2198-3-15**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-15**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100.1
   HR: 111 (71 - 117) bpm
   BP: 151/76(102) {90/42(58) - 161/79(102)} mmHg
   RR: 25 (16 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 78 Inch
             Total In:
                                                                  1,140 mL
                                                                  1,531 mL
   PO:
             TF:
   IVF:
                                                                  1,140 mL
                                                                  1,531 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                  1,720 mL
   Urine:
                                                                  2,060 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -920 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 458 (361 - 528) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 48
   RSBI Deferred: FiO2 > 60%
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 15.2 L/min
   Physical Examination
   Gen: NAD, sedated
   HEENT: Large facial mass over R cheek without active bleeding
   CV: RRR no m/r/g
   Pulm: Diffuse bronchial BS on L
   Abd: s/nt/nd +BS
   Ext: 1+ edema bilat
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   421 K/uL
   114 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.2 mEq/L
   9 mg/dL
   110 mEq/L
   144 mEq/L
   26.5 %
   51.6 K/uL
        [image002.jpg]
                             [**2198-3-12**]  06:00 AM
                             [**2198-3-12**]  11:39 AM
                             [**2198-3-12**]  03:07 PM
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
   WBC
   41.7
   49.0
   59.1
   60.3
   51.6
   Hct
   27.4
   28.3
   29.1
   31
   27.0
   26.4
   27.8
   25.6
   27.3
   26.5
   Plt
   338
   358
   388
   378
   421
   Cr
   0.9
   0.9
   0.8
   0.6
   Glucose
   111
   109
   134
   114
   Other labs: PT / PTT / INR:17.0/33.9/1.5, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:10.1 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   1.       Resp failure: Mucous plugged L side
   -bronch with BAL, send for cx
   -plan for extubation if weans easily after bronch
   2.       Facial mass:  Sphenopalatine artery done, would only offer
   facial embolization if further bleeding
   -f/u rad onc recs
   3.       ID: Facial mass with acinetobacter,enterobacter, and MSSA
cont. clinda and cipro
   --BAL today
   --Severe leukocytosis, no bands, likely in part related to pneumonia
   but seems to be a leukemoid reaction. Will need to review with heme.
   4.       Hypercalcemia: Suspect [**2-19**] bony destruction from tumor
   -hydration, now 10.1
   5.       FEN: NPO, either extubated today or OGT for TF
   ICU Care
   Nutrition: TF
   Glycemic Control:  Good
   Lines:
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   20 Gauge - [**2198-3-12**] 12:12 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer:  PPI
   VAP: HOB elevated, Mouth care
   Communication:  Wife and Son Comments:
   [**Name2 (NI) 129**] status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent:  35 min
   Addendum: bronch revealed thick, copious mucupurulent secretions in LUL
   and LLL bronchi. Secretions suctioned and f/u CXR shows improved
   aeration of left lung. Sats improved. Will cover for pneumonia given
   obvious pneumonia, fever and leukocytosis. Will cover pneumonia with
   Vanc/Zosyn and d/c cipro and clinda. Acinetobacter/enterobacter both
   sensitive to Zosyn. Not ready for extubation. Family aware.  Additional
   10 minutes of critical care time.

2198-03-16 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - mucous plug, hypoxic, self extubated, re-intubated in OR
   - Left lung collapse noted on post-procedure CXR
   - on propofol for sedation post-procedure
   - Bronched - lots of secretions visualized
   - Heme/onc and rad/onc will see when extubated
   - FEVER - 102.8
 at 04:00 PM - antibiotics broadened to Vanc/Zosyn to
   cover HAP; cipro and clindamycin d/c'd
   - 1 U pRBCs for hct drop from 26 -> 22
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2198-3-15**] 12:04 PM
   Clindamycin - [**2198-3-15**] 04:00 PM
   Vancomycin - [**2198-3-15**] 06:15 PM
   Piperacillin - [**2198-3-16**] 01:57 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2198-3-15**] 06:00 PM
   Pantoprazole (Protonix) - [**2198-3-16**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-16**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.8
C (100.1
   HR: 58 (58 - 111) bpm
   BP: 98/44(58) {76/35(48) - 151/76(102)} mmHg
   RR: 25 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 78 Inch
             Total In:
                                                                  5,426 mL
                                                                  2,025 mL
   PO:
             TF:
   IVF:
                                                                  5,426 mL
                                                                  1,845 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                    460 mL
   Urine:
                                                                  2,265 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,161 mL
                                                                  1,570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 97%
   ABG: ///24/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   348 K/uL
   7.7 g/dL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   2.5 mEq/L
   12 mg/dL
   112 mEq/L
   144 mEq/L
   22.9 %
   39.0 K/uL
        [image002.jpg]
                             [**2198-3-12**]  11:39 AM
                             [**2198-3-12**]  03:07 PM
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
                             [**2198-3-16**]  04:35 AM
   WBC
   49.0
   59.1
   60.3
   51.6
   39.0
   Hct
   28.3
   29.1
   31
   27.0
   26.4
   27.8
   25.6
   27.3
   26.5
   22.9
   Plt
   358
   388
   378
   421
   348
   Cr
   0.9
   0.8
   0.6
   0.9
   Glucose
   109
   134
   114
   108
   Other labs: PT / PTT / INR:16.7/35.4/1.5, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:10.0 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Microbiology: [**2198-3-15**] 2:24 pm BRONCHOALVEOLAR
      GRAM STAIN (Final [**2198-3-15**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      ACID FAST CULTURE (Preliminary):
      ACID FAST SMEAR (Preliminary):
      RESPIRATORY CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
   Assessment and Plan
   57 y/o M with large R face SCC with brisk hemorrhage through it.
   #. Respiratory Status: Patient emergently underwent nasotracheal
   intubation in preparation of procedure in early admission for
   procedures and to protect airway, now intubated x ~ 5 days.  Pulled NTT
   this AM.  Acute hypoxia overnight and change in CXR likely represents
   mucous plug, though timing of events not clearly chronologic, thus ?
   other etiologies for hypoxia.  Underwent oral intubation in OR this AM
   for hypoxia, not for procedures.  Family continues to stress desire to
   extubate when possible.
   -bronch today to attempt mucous plug removal
   -wean and extubate ASAP pending ability to breath independently after
   bronch, or other reasons for hypoxia must be excluded.  Currently
   satting well on high fiO2
   - propofol for sedation, change fentanyl to PRN in preparation for
   extubation
   - consider broadening antibiotics to cover VAP
   # Fevers: spiking fevers to 101.  Antibiotic coverage for his wound.
   Other concerns would be VAP given 4-5 days of intubation, increasing
   sputum.  WBC overall stable.  Other sources of fever could be
   medications, cancer, recent embolization.
   - bronch today
   - expand antibiotics to cover VAP pending results of bronch
   #.Facial Bleeding/facial mass: From large fungating growth of squamous
   cell carcinoma. The patient has multiple blood transfusions.  O/W, he
   is HD stable.  ENT does not feel he is a candidate for surgical
   intervention. Embolized sphenopalatine arteries yesterday.  Plan for
   facial artery embolization only prn for bleeding.
   -keep wound dressed
   - Follow Hct daily unless active bleeding, transfuse to keep HCT > 25
   -embolization as above
   -f/u hematology/oncology recs and neuroradiology recs re: palliative
   radiation, further plan, etc
   -palliative care recs are appreciated
   - will consult rad/onc
 to see after extubation
   #. Wound: Cultured with acinetobacter, enterobacter cloacae, and MSSA
   at OSH. Will covering with ciprofloxacin as per sensitivities for
   acinetobacter and clinda for enterobacter and MSSA per sensitivies and
   empirically for oropharyngeal flora (poor dentition).   Cefazolin
   discontinued.
   - Continue antibiotics
   # psych: unclear psych issues, on no medications.  Background info.
   # Leukocytosis: BM stress of brisk bleed/anemia vs paraneoplastic from
   cancer vs infection from organisms cultured from wound as above. Follow
   clinically.   See above re: fevers.
   - will check diff
   - heme/onc is following
   # Hypercalcemia:  Mild.  ? secondary to bone erosion vs. PTHrP.
   - IV hydration
   - trend Ca
   #. FEN: Will need OGT if not extubated today.  S/S after extubation
   # PPx:
   - pneumoboots, bowel regimen, pain management, PPI
   # Code status: DNR. Palliative care consult.  Discussion with patient
   after extubation.
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   20 Gauge - [**2198-3-12**] 12:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-03-16 12:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   Currently hemodynamic status. Patient has a history of not wanting
   aggressive medical interventions, but agreed to intubation for
   embolization. Embolized in neuro IR on [**3-13**] sphenopalatine artery
   embolized, now bleeding stopped. Unfortunately had mucous plug of L
   mainstem today, s/p bronch with lots of mucous plugs, BAL sent, started
   on vanco/zosyn for empiric coverage.
   24 Hour Events:
   Bronch done with thick mucopurulent secretions. Spiked.
 BLOOD CULTURED - At [**2198-3-15**] 01:00 PM
 URINE CULTURE - At [**2198-3-15**] 01:00 PM
 BRONCHOSCOPY - At [**2198-3-15**] 02:00 PM
 FEVER - 102.8
F - [**2198-3-15**] 04:00 PM
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2198-3-15**] 12:04 PM
   Clindamycin - [**2198-3-15**] 04:00 PM
   Vancomycin - [**2198-3-16**] 08:39 AM
   Piperacillin - [**2198-3-16**] 11:04 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2198-3-15**] 06:00 PM
   Pantoprazole (Protonix) - [**2198-3-16**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-16**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.6
C (99.6
   HR: 59 (58 - 101) bpm
   BP: 103/41(57) {76/35(48) - 122/72(85)} mmHg
   RR: 25 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 78 Inch
           Total In:
                                                                  5,426 mL
                                                                  3,717 mL
   PO:
           TF:
   IVF:
                                                                  5,426 mL
                                                                  3,193 mL
   Blood products:
   343 mL
   Total out:
                                                                  2,265 mL
                                                                    990 mL
   Urine:
                                                                  2,265 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,161 mL
                                                                  2,727 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 96%
   ABG: ///24/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, large R cheek mass
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   348 K/uL
   108 mg/dL
   0.9 mg/dL
   24 mEq/L
   2.5 mEq/L
   12 mg/dL
   112 mEq/L
   144 mEq/L
   22.9 %
   39.0 K/uL
        [image002.jpg]
                             [**2198-3-12**]  11:39 AM
                             [**2198-3-12**]  03:07 PM
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
                             [**2198-3-16**]  04:35 AM
   WBC
   49.0
   59.1
   60.3
   51.6
   39.0
   Hct
   28.3
   29.1
   31
   27.0
   26.4
   27.8
   25.6
   27.3
   26.5
   22.9
   Plt
   358
   388
   378
   421
   348
   Cr
   0.9
   0.8
   0.6
   0.9
   Glucose
   109
   134
   114
   108
   Other labs: PT / PTT / INR:16.7/35.4/1.5, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:10.0 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 CANCER (MALIGNANT NEOPLASM), OTHER
   57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   Currently hemodynamic status. Patient has a history of not wanting
   aggressive medical interventions, but agreed to intubation for
   embolization. Embolized in neuro IR on [**3-13**] sphenopalatine artery
   embolized, now bleeding  mostly stopped --continues to ooze.
   Unfortunately had mucous plug of L mainstem today, s/p bronch with lots
   of mucous plugs, BAL sent, started on vanco/zosyn for empiric coverage.
   1. resp failure: Initially intubated for airway protected, now appears
   to have HAP/VAP
   -propofol gtt, drop fentanyl to 25 mcg/h
   -plan to SBT tomorrow am, PS trial today
   -guafenesin
   2. SCC with bleed:
   -check post transfusion hct
   -facial art embolization if acute bleed
   3. ID: Possible VAP, MSSA, enterobacter, and acinetobacter in OSH mass
   cx
   -cont. vanco/zosyn X10days
   4. FEN: Ca improved, suspect [**2-19**] malignancy
   -TF today, off after MN for SBT
   -[**Month (only) 202**] IVF to NS at 100/h
   5. Lekocytosis: Improving, may be leukomoid reaction
   -f/u heme recs
   6. Goals of care: family has been updated daily. If weaning from vent
   becomes difficult in next 1-2 days, will need to discuss terminal wean
   as patient clearly expressed his reluctance to be intubated, even for
   embolization.
   ICU Care
   Nutrition: tube feeds
   Lines:
   18 Gauge - [**2198-3-11**] 06:50 PM
   16 Gauge - [**2198-3-11**] 06:51 PM
   20 Gauge - [**2198-3-12**] 12:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments: Contraindicated given risk of self-extubation
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2198-03-17 08:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continued to have thick, copious secretions requiring frequent
   pulmonary toilet
   - Started Guaifenesin
   - Tube feedings initiated
   - Repleted K 2.5
   - thick secretions this AM, but decreased production.  Sedation weaned
   and tube feeds held by RN for ? extubation today.
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2198-3-15**] 12:04 PM
   Clindamycin - [**2198-3-15**] 04:00 PM
   Piperacillin - [**2198-3-17**] 02:00 AM
   Vancomycin - [**2198-3-17**] 08:03 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Flowsheet Data as of  [**2198-3-17**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.9
   HR: 70 (59 - 86) bpm
   BP: 121/57(73) {88/40(52) - 125/58(74)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  6,059 mL
                                                                  2,559 mL
   PO:
             TF:
                                                                    173 mL
   IVF:
                                                                  5,241 mL
                                                                  2,289 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,210 mL
                                                                    930 mL
   Urine:
                                                                  2,210 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,849 mL
                                                                  1,629 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 320 (320 - 580) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Thin, generalized anasarca
   (worse)
   Eyes / Conjunctiva: large right facial mass
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right: Trace edema, Left: Trace edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   339 K/uL
   8.4 g/dL
   105 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   9 mg/dL
   110 mEq/L
   141 mEq/L
   24.6 %
   41.4 K/uL
        [image002.jpg]   Vanc trough = 16.2
                             [**2198-3-12**]  06:43 PM
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
   WBC
   49.0
   59.1
   60.3
   51.6
   39.0
   41.4
   Hct
   31
   27.0
   26.4
   27.8
   25.6
   27.3
   26.5
   22.9
   24.0
   24.6
   Plt
   358
   388
   378
   421
   348
   339
   Cr
   0.9
   0.8
   0.6
   0.9
   0.7
   Glucose
   109
   134
   114
   108
   105
   Other labs: PT / PTT / INR:14.9/31.9/1.3, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: [**2198-3-15**] 2:24 pm BRONCHOALVEOLAR
   LAVAGE
      GRAM STAIN (Final [**2198-3-15**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   ACID FAST CULTURE (Preliminary):
   ACID FAST SMEAR (Final [**2198-3-16**]):
   NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   RESPIRATORY CULTURE (Preliminary):
         10,000-100,000 ORGANISMS/ML. OROPHARYNGEAL FLORA.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
   57 y/o M with large R face SCC s/p hemorrhage from facial mass.
   1) Ventilator-associated pneumonia:  Patient electively underwent
   nasotracheal intubation in preparation for facial embolization
   procedure, now intubated x  6 days with difficulty weaning from vent.
   Patient sustained left lung collapse on [**2-12**] with subsequent
   bronchoscopy that revealed thick, copious secretions.  Secretions
   continue to limit ventilator independence.   Currently he is on
   vancomycin/zosyn (day #3 of 8) for VAP.
   - Wean vent as tolerated, but defer extubation until secretions reduced
   - Pulmonary toilet
   - start standing mucolytics
   - f/u BAL fluid culture
   - propofol and fentanyl gtt for sedation
   - Will arrange family meeting to discuss plan for transition to comfort
   should patient fail extubation
   2) Facial mass:  Patient has large fungating unresectable SCC mass s/p
   brisk bleed to hematocrit of ~6.  He has been transfusion-dependent.
   ENT consultants have ruled out surgical resection of mass as
   therapeutic option given involvement of skull margins.  Now s/p
   bilateral sphenopalatine artery embolization by Neuro IR.
   -          Reconsult Neuro IR as needed for facial artery embolization
   -          Dressing changes daily, as per ENT recs
   -          Transfuse to keep hct > 25
   -          RadOnc to evaluate for palliative radiation once patient is
   able to participate in decision making ([**Pager number 4404**])
   -          Heme/Onc following
   -          Palliative Care following
   3)       Wound infection:  Facial mass with culture data from OSH
   positive for acinetobacter, enterobacter cloacae, and MSSA.   He was
   previously treated with ciprofloxacin and clindamycin, now covered with
   Vanc/Zosyn.
   4)  Leukocytosis:  Likely leukomoid reaction vs. infection.
   - continue to trend
   5) Hypercalcemia:  Likely secondary a paraneoplastic process as humoral
   hypercalcemia of malignancy by secretion of PTHrP is commonly seen in
   squamous cell carcinoma of the head and neck.
   - IV hydration
   - trend Ca
   6) FEN:
   - Resume tube feeds today
   - d/c maintenance IVF given fluid overload
   - check PM K+ following repletion
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-3-17**] 12:00 AM
   20 Gauge - [**2198-3-17**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU until extubated

2198-03-17 11:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   Currently hemodynamically stable. Patient has a history of not wanting
   aggressive medical interventions, but agreed to intubation for
   embolization. Embolized in neuro IR on [**3-13**] sphenopalatine artery
   embolized, now bleeding stopped. Unfortunately had mucous plug of L
   mainstem [**3-15**] had bronch with lots of mucopurulent secretions, BAL
   sent, started on vanco/zosyn for empiric coverage. We are still trying
   to extubate to discuss his wishes further, however if not successful in
   next few days may have to readdress with family.
   24 Hour Events:
   Continued to have thick secretions. Weaned to [**5-22**] and 40%. Started
   guafenesin. Stopped TF to assess extubation, restarted due to severe
   secretions.
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2198-3-15**] 12:04 PM
   Clindamycin - [**2198-3-15**] 04:00 PM
   Piperacillin - [**2198-3-17**] 02:00 AM
   Vancomycin - [**2198-3-17**] 08:03 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-17**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.9
   HR: 75 (59 - 86) bpm
   BP: 128/62(77) {88/40(52) - 128/62(77)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  6,059 mL
                                                                  3,053 mL
   PO:
             TF:
                                                                    173 mL
   IVF:
                                                                  5,241 mL
                                                                  2,783 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,210 mL
                                                                  1,630 mL
   Urine:
                                                                  2,210 mL
                                                                  1,630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,849 mL
                                                                  1,427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 320 (320 - 580) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.43/39/71/23/1
   Ve: 9.8 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, R cheek mass
   Head, Ears, Nose, Throat: No(t) Normocephalic, Poor dentition,
   Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   339 K/uL
   105 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   9 mg/dL
   110 mEq/L
   141 mEq/L
   24.6 %
   41.4 K/uL
        [image002.jpg]
                             [**2198-3-12**]  07:57 PM
                             [**2198-3-13**]  04:16 AM
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
                             [**2198-3-17**]  10:02 AM
   WBC
   49.0
   59.1
   60.3
   51.6
   39.0
   41.4
   Hct
   27.0
   26.4
   27.8
   25.6
   27.3
   26.5
   22.9
   24.0
   24.6
   Plt
   358
   388
   378
   421
   348
   339
   Cr
   0.9
   0.8
   0.6
   0.9
   0.7
   TCO2
   27
   Glucose
   109
   134
   114
   108
   105
   Other labs: PT / PTT / INR:14.9/31.9/1.3, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 CANCER (MALIGNANT NEOPLASM), OTHER
   57 y/o m with SCC with bleed. Now with HAP/VAP.
   1. resp failure: HAP/VAP
   vanco/zosyn plan for 8-10 days
   plan to try to extubate tomorrow
   family meeting tomorrow morning to discuss not reintubating per his
   wishes
   cont. propofol and fentanyl, reassess secretions tomorrow
   start mucomyst instilled for secretions
   drop FiO2 to 40%
   2. SCC: No further bleeding
   s/p sphenopalatine artery embolization
   no further intervention unless acute bleed
   3. Leukocytosis: Infection versus  Leukomoid reaction
   follow CBC w diff, check C diff and trend
   4. Hypercalcemia: Improving
   stop IVF
   goal neg 1L today
   5. FEN: TF
   ICU Care
   Nutrition: TFs
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-3-17**] 12:00 AM
   20 Gauge - [**2198-3-17**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  with family
 By all appearnces he is getting worse
   with PNA and leukocytosis. If he had not wished for prolonged
   intubation this needed to be readdressed with family
 wioll try today
   or tomm and decisions re extubation and goals of care
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2198-03-18 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: scc facial mass
   24 Hour Events:
   - mucomyst started as mucolytics
   - family meeting to be done today at 12:30 with sister and nephew prior
   to extubation
   - needs to touch base with heme/onc and radonc post extubation to
   decide further care
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2198-3-15**] 12:04 PM
   Clindamycin - [**2198-3-15**] 04:00 PM
   Vancomycin - [**2198-3-17**] 08:13 PM
   Piperacillin - [**2198-3-18**] 02:00 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-18**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 60 (59 - 80) bpm
   BP: 95/57(66) {95/43(56) - 134/68(83)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  4,396 mL
                                                                    766 mL
   PO:
             TF:
                                                                    181 mL
                                                                    140 mL
   IVF:
                                                                  3,795 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    595 mL
   Urine:
                                                                  3,280 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,116 mL
                                                                    171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 495 (320 - 1,435) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 125
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.43/39/71/24/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Gen: NAD
   HEENT: large mass, dressing in place with serosanguinous drainage
   Pulm: CTAB, no w/r/r anteriorly
   Cv: hrrr, no m/r/g
   Abd: s/nt/nd/nabs
   Extr: RUE and bilateral LE edema
   Labs / Radiology
   364 K/uL
   8.2 g/dL
   118 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.2 mEq/L
   7 mg/dL
   111 mEq/L
   142 mEq/L
   24.8 %
   39.7 K/uL
        [image002.jpg]
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
                             [**2198-3-17**]  10:02 AM
                             [**2198-3-17**]  03:40 PM
                             [**2198-3-18**]  03:23 AM
   WBC
   59.1
   60.3
   51.6
   39.0
   41.4
   39.7
   Hct
   27.8
   25.6
   27.3
   26.5
   22.9
   24.0
   24.6
   25.1
   24.8
   Plt
   388
   378
   421
   348
   339
   364
   Cr
   0.8
   0.6
   0.9
   0.7
   0.7
   TCO2
   27
   Glucose
   134
   114
   108
   105
   118
   Other labs: PT / PTT / INR:15.2/32.1/1.3, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   57 y/o M with large R face SCC s/p hemorrhage from facial mass.
   1) Ventilator-associated pneumonia:  Patient electively underwent
   nasotracheal intubation in preparation for facial embolization
   procedure, now intubated x  7 days with difficulty weaning from vent.
   Patient sustained left lung collapse on [**2-12**] with subsequent
   bronchoscopy that revealed thick, copious secretions.  Secretions
   continue to limit ventilator independence.   Currently he is on
   vancomycin/zosyn (day #3 of 8) for VAP.  He continues to have thick
   secretions requiring roughly q 2 hr suctioning, though tolerating [**5-22**].
   - family meeting today re: goals of care and pt
s wishes, likely
   extubation with DNI. Discuss transition to comfort care if he fails
   extubation.
   - Pulmonary toilet
   - cont standing mucolytics
   - f/u BAL fluid culture
   - propofol and fentanyl gtt for sedation
   2) Facial mass:  Patient has large fungating unresectable SCC mass s/p
   brisk bleed to hematocrit of ~6.  He has been transfusion-dependent.
   ENT consultants have ruled out surgical resection of mass as
   therapeutic option given involvement of skull margins.  Now s/p
   bilateral sphenopalatine artery embolization by Neuro IR.
   -          Reconsult Neuro IR as needed for facial artery embolization
   -          Dressing changes daily, as per ENT recs
   -          Transfuse to keep hct > 25 if bleeding, 21-24 if not
   bleeding significantly
   -          RadOnc to evaluate for palliative radiation once patient is
   able to participate in decision making ([**Pager number 4404**])
   -          Heme/Onc following
   -          Palliative Care following
   3)       Wound infection:  Facial mass with culture data from OSH
   positive for acinetobacter, enterobacter cloacae, and MSSA.   He was
   previously treated with ciprofloxacin and clindamycin, now covered with
   Vanc/Zosyn.
   4)  Leukocytosis:  Likely leukomoid reaction vs. infection.
   - continue to trend
   5) Hypercalcemia:  Likely secondary a paraneoplastic process as humoral
   hypercalcemia of malignancy by secretion of PTHrP is commonly seen in
   squamous cell carcinoma of the head and neck.
   - IV hydration
   - trend Ca
   6) FEN:
   - cont tube feeds
   7) PPx: pneumoboots, PPI
   8) CODE: DNR, to discuss DNI/CMO at family meeting today
   9) dispo: ICU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-17**] 12:00 AM
   20 Gauge - [**2198-3-17**] 12:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-03-18 11:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   Currently hemodynamically stable. Patient has a history of not wanting
   aggressive medical interventions, but agreed to intubation for
   embolization. Embolized in neuro IR on [**3-13**] sphenopalatine artery
   embolized, now bleeding stopped. Unfortunately had mucous plug of L
   mainstem [**3-15**] had bronch with lots of mucopurulent secretions, BAL
   sent, started on vanco/zosyn for empiric coverage. We are still trying
   to extubate to discuss his wishes further, planned family meeting today
   at 12:30.
   24 Hour Events:
   Mucomyst was started. Family meeting planned for today at 12:30.
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2198-3-15**] 12:04 PM
   Clindamycin - [**2198-3-15**] 04:00 PM
   Vancomycin - [**2198-3-18**] 10:43 AM
   Piperacillin - [**2198-3-18**] 10:43 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-18**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.6
   HR: 63 (59 - 80) bpm
   BP: 110/56(67) {95/43(56) - 134/68(83)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  4,396 mL
                                                                  1,284 mL
   PO:
             TF:
                                                                    181 mL
                                                                    140 mL
   IVF:
                                                                  3,795 mL
                                                                    804 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    895 mL
   Urine:
                                                                  3,280 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,116 mL
                                                                    389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 670 (460 - 670) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 125
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, large R cheek
   mass
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   364 K/uL
   118 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.2 mEq/L
   7 mg/dL
   111 mEq/L
   142 mEq/L
   24.8 %
   39.7 K/uL
        [image002.jpg]
                             [**2198-3-13**]  04:35 PM
                             [**2198-3-14**]  04:22 AM
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
                             [**2198-3-17**]  10:02 AM
                             [**2198-3-17**]  03:40 PM
                             [**2198-3-18**]  03:23 AM
   WBC
   59.1
   60.3
   51.6
   39.0
   41.4
   39.7
   Hct
   27.8
   25.6
   27.3
   26.5
   22.9
   24.0
   24.6
   25.1
   24.8
   Plt
   388
   378
   421
   348
   339
   364
   Cr
   0.8
   0.6
   0.9
   0.7
   0.7
   TCO2
   27
   Glucose
   134
   114
   108
   105
   118
   Other labs: PT / PTT / INR:15.2/32.1/1.3, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 CANCER (MALIGNANT NEOPLASM), OTHER
   57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   Currently hemodynamically stable. Patient has a history of not wanting
   aggressive medical interventions, but agreed to intubation for
   embolization. Embolized in neuro IR on [**3-13**] sphenopalatine artery
   embolized, now bleeding stopped. Unfortunately had mucous plug of L
   mainstem [**3-15**] had bronch with lots of mucopurulent secretions, BAL
   sent, started on vanco/zosyn for empiric coverage. We are still trying
   to extubate to discuss his wishes further, planned family meeting today
   at 12:30.
   1. VAP: Intubated for 6 days
   -continues to have thick grey sputum
   -suctioning q 1-2h
   -will discuss goals of care with family
   -day [**4-25**] vanco/zosn
   2. SCC: No surgical options
   -likely poor quality of life and poor prognosis
   -discuss at family meeting
   3. Hypercalcemia: Improving [**2-19**] malignancy
   4. Leukocytosis: Likely leukomoid reaction
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-3-17**] 12:00 AM
   20 Gauge - [**2198-3-17**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2198-03-19 08:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued to have thick copious secretions
   - family meeting held on Sunday: concluded that we will give more time
   for antibiotics to possibly decrease secretions (absolute time course
   not determined). Family aware of need to define goals of care prior to
   extubation
   - Trial of 40% fio2
 sats dropped to 90%.  Resumed FiO2 50%.
   - 1 U pRBCs for drifting HCT
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-18**] 08:00 PM
   Piperacillin - [**2198-3-19**] 02:00 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: Tube feeds, Parenteral nutrition
   Flowsheet Data as of  [**2198-3-19**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.1
C (96.9
   HR: 63 (62 - 79) bpm
   BP: 121/56(72) {102/46(58) - 125/63(74)} mmHg
   RR: 8 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
           Total In:
                                                                  2,230 mL
                                                                  1,198 mL
   PO:
           TF:
                                                                    232 mL
                                                                    123 mL
   IVF:
                                                                  1,498 mL
                                                                    392 mL
   Blood products:
   253 mL
   Total out:
                                                                  1,980 mL
                                                                    960 mL
   Urine:
                                                                  1,980 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 696 (460 - 698) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, large right sided
   facial mass with dressing intact
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace lower extremity edema.  RUE with
   edema.  LUE with erythema extending proximally from PIV.
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   394 K/uL
   7.8 g/dL
   121 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   7 mg/dL
   107 mEq/L
   139 mEq/L
   23.3 %
   43.1 K/uL
        [image002.jpg]
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
                             [**2198-3-17**]  10:02 AM
                             [**2198-3-17**]  03:40 PM
                             [**2198-3-18**]  03:23 AM
                             [**2198-3-18**]  04:40 PM
                             [**2198-3-19**]  03:30 AM
   WBC
   60.3
   51.6
   39.0
   41.4
   39.7
   43.1
   Hct
   27.3
   26.5
   22.9
   24.0
   24.6
   25.1
   24.8
   24.4
   23.3
   Plt
   378
   421
   348
   [**Telephone/Fax (3) 4464**]
   Cr
   0.6
   0.9
   0.7
   0.7
   0.7
   TCO2
   27
   Glucose
   114
   108
   105
   118
   121
   Other labs: PT / PTT / INR:14.1/31.0/1.2, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:9.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR [**3-18**]:
   FINDINGS: Almost unchanged remnant left lung opacities, with indication
   of
   partial retrocardiac atelectasis. Unchanged size of the cardiac
   silhouette,
   unchanged position of monitoring and support devices. No newly occurred
   focal
   parenchymal opacities.
   Microbiology: [**2198-3-15**] 2:24 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2198-3-15**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      ACID FAST CULTURE (Preliminary):
      ACID FAST SMEAR (Final [**2198-3-16**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
    RESPIRATORY CULTURE (Final [**2198-3-17**]): 10,000-100,000 ORGANISMS/ML.
   OROPHARYNGEAL FLORA.  YEAST.    10,000-100,000 ORGANISMS/ML..
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
   57 y/o M with large R face SCC s/p hemorrhage from facial mass.
   1) Ventilator-associated pneumonia:  Patient electively underwent
   nasotracheal intubation in preparation for facial embolization
   procedure, now intubated >7 days with difficulty weaning from vent.
   Patient sustained left lung collapse on [**2-12**] with subsequent
   bronchoscopy that revealed thick, copious secretions.  Secretions
   continue to limit ventilator independence.   Currently he is on
   vancomycin/zosyn (day #5 of 8) for VAP (start date [**3-15**]).
   - Continue conversation with family regarding transition to comfort
   care if he fails extubation.
   - Pulmonary toilet
   - cont standing mucolytics
   - f/u BAL fluid culture
   - propofol and fentanyl gtt for sedation
   2) Facial mass:  Patient has large fungating unresectable SCC mass s/p
   brisk bleed to hematocrit of ~6.  He has been transfusion-dependent.
   ENT consultants have ruled out surgical resection of mass as
   therapeutic option given involvement of skull margins.  Now s/p
   bilateral sphenopalatine artery embolization by Neuro IR.
   -          Reconsult Neuro IR as needed for facial artery embolization
   -          Dressing changes daily, as per ENT recs
   -          Transfuse to keep hct > 25 if bleeding, 21-24 if not
   bleeding significantly
   -          RadOnc to evaluate for palliative radiation once patient is
   able to participate in decision making ([**Pager number 4404**])
   -          Heme/Onc following
   -          Palliative Care following
   3)   Wound infection:  Facial mass with culture data from OSH positive
   for acinetobacter, enterobacter cloacae, and MSSA.   He was previously
   treated with ciprofloxacin and clindamycin, now covered with
   Vanc/Zosyn.
   4)  Leukocytosis:  Likely leukemoid reaction vs. infection.
   - continue to trend
   5) Hypercalcemia:  Likely secondary a paraneoplastic process as humoral
   hypercalcemia of malignancy by secretion of PTHrP is commonly seen in
   squamous cell carcinoma of the head and neck.
   - IV hydration
   - trend Ca
   6) RUE edema: Suspected superficial thrombophlebibis vs. upper
   extremity DVT.  Patient is not a candidate for anticoagulation under
   any circumstances, given facial hemorrhage; thus, no further work-up at
   this time to evaluate for clot.
   - Supportive care with arm elevation, warm compresses, removal of PIV
   7) FEN:
   - cont tube feeds
   8) PPx: pneumoboots, PPI
   9) CODE: DNR.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-3-17**] 04:46 PM 15 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-3-17**] 12:00 AM
   20 Gauge - [**2198-3-17**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:  ICU until extubated.

2198-03-19 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with large squamous carcinoma of R face with significant bleed
   tumor requiring nasal intubation and multiple PRBC transfusions.
   Currently hemodynamically stable. Patient has a history of not wanting
   aggressive medical interventions, but agreed to intubation for
   embolization. Embolized in neuro IR on [**3-13**] sphenopalatine artery
   embolized, now bleeding stopped. Unfortunately had mucous plug of L
   mainstem [**3-15**] had bronch with lots of mucopurulent secretions, BAL
   sent, started on vanco/zosyn for empiric coverage. We had a meeting
   with his sister (next of [**Doctor First Name **]) and his nephew, and we decided to cont.
   intubation to see if his secretions decrease in next few days, if not
   will have to readdress extubation.
   24 Hour Events:
   Given 1U PRBCs for hct trending down. Family meeting done with plan to
   cont. intubation for a few days to see if secretions will improve.
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-19**] 08:00 AM
   Piperacillin - [**2198-3-19**] 10:00 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-19**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 68 (63 - 79) bpm
   BP: 104/56(67) {102/41(57) - 125/63(76)} mmHg
   RR: 28 (8 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
           Total In:
                                                                  2,230 mL
                                                                  1,834 mL
   PO:
           TF:
                                                                    232 mL
                                                                    168 mL
   IVF:
                                                                  1,498 mL
                                                                    801 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,980 mL
                                                                  1,760 mL
   Urine:
                                                                  1,980 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 430 (430 - 698) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: large R cheek mass
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   394 K/uL
   121 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   7 mg/dL
   107 mEq/L
   139 mEq/L
   23.3 %
   43.1 K/uL
        [image002.jpg]
                             [**2198-3-14**]  06:16 PM
                             [**2198-3-15**]  03:50 AM
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
                             [**2198-3-17**]  10:02 AM
                             [**2198-3-17**]  03:40 PM
                             [**2198-3-18**]  03:23 AM
                             [**2198-3-18**]  04:40 PM
                             [**2198-3-19**]  03:30 AM
   WBC
   60.3
   51.6
   39.0
   41.4
   39.7
   43.1
   Hct
   27.3
   26.5
   22.9
   24.0
   24.6
   25.1
   24.8
   24.4
   23.3
   Plt
   378
   421
   348
   [**Telephone/Fax (3) 4464**]
   Cr
   0.6
   0.9
   0.7
   0.7
   0.7
   TCO2
   27
   Glucose
   114
   108
   105
   118
   121
   Other labs: PT / PTT / INR:14.1/31.0/1.2, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:9.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 CANCER (MALIGNANT NEOPLASM), OTHER
   57 y/o m with large R cheek SCC, no surgical option, s/p massive bleed
   from the mass with IR embolization of sphenopalatine artery. Intubated
   for procedure and now unable to be extubated [**2-19**] PNA.
   1. HAP:
   -day [**4-25**] vanco/zosyn, cx NG
   -propofol and fentanyl
   -will not attempt to stop sedation to involve in dicussion given risk
   of self-extubation with difficult airway
   2. SCC: stable appearance
   -hct >25, trend
   -if acute bleed would need facial artery embolization
   3. Leukocytosis: like leukomoid rxn
   4. hyper Ca: suspect [**2-19**] malignancy, hydration
   5. RUE swelling: concerning for DVT
   -likely DVT but cannot anticoagulate
   -switch BP cuff, elevate, warm compresses
   6. FEN: cont. TF
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-3-17**] 04:46 PM 15 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-3-17**] 12:00 AM
   20 Gauge - [**2198-3-17**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   57 year old male with large, uncurable and unsurgically respectable
   squamous cell carcinoma of the face.  He was intubated for procedure to
   cauterize sphenopalatine artery bleed however now remains intubated
   because of pneumonia and inability to wean from ventilator.
   On exam, large right sided facial tumor, ETT in place.
   Lungs: CTA
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Neuro: Sedated
   A:
   1)       Respiratory Failure
   2)       Pneumonia
   3)       Squamous Cell Carcinoma
 incurable
   Plan:
   1)       Family Meeting tomorrow to discuss goals of care
   2)       Continue current ventilator settings pending family meeting
   tomorrow
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2198-3-20**] 12:00 AM ------

2198-03-20 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 1 unit PRBC's
   - Multiple desaturations at 10/5/50% to high 80's
   - Attempted wean to 40% with desat to 84%
   - Family meeting scheduled for [**3-20**]
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-19**] 08:00 AM
   Piperacillin - [**2198-3-20**] 02:00 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-20**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.3
   HR: 63 (63 - 94) bpm
   BP: 108/50(64) {87/36(49) - 123/68(80)} mmHg
   RR: 10 (10 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  2,923 mL
                                                                  1,063 mL
   PO:
             TF:
                                                                    480 mL
                                                                    499 mL
   IVF:
                                                                  1,358 mL
                                                                    374 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,380 mL
                                                                    920 mL
   Urine:
                                                                  3,380 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -457 mL
                                                                    143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 450 (395 - 648) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///24/
   Ve: 10.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   398 K/uL
   8.8 g/dL
   138 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   26.2 %
   42.7 K/uL
        [image002.jpg]
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
                             [**2198-3-17**]  10:02 AM
                             [**2198-3-17**]  03:40 PM
                             [**2198-3-18**]  03:23 AM
                             [**2198-3-18**]  04:40 PM
                             [**2198-3-19**]  03:30 AM
                             [**2198-3-19**]  04:32 PM
                             [**2198-3-20**]  04:06 AM
   WBC
   39.0
   41.4
   39.7
   43.1
   42.7
   Hct
   22.9
   24.0
   24.6
   25.1
   24.8
   24.4
   23.3
   25.5
   26.2
   Plt
   348
   339
   364
   394
   398
   Cr
   0.9
   0.7
   0.7
   0.7
   0.7
   TCO2
   27
   Glucose
   108
   105
   118
   121
   138
   Other labs: PT / PTT / INR:14.1/31.0/1.2, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   57 y/o M with large R face SCC s/p hemorrhage from facial mass.
   1) Ventilator-associated pneumonia:  Patient electively underwent
   nasotracheal intubation in preparation for facial embolization
   procedure, now intubated >7 days with difficulty weaning from vent.
   Patient sustained left lung collapse on [**2-12**] with subsequent
   bronchoscopy that revealed thick, copious secretions.  Secretions
   continue to limit ventilator independence.   Currently he is on
   vancomycin/zosyn (day #5 of 8) for VAP (start date [**3-15**]).
   - Continue conversation with family regarding transition to comfort
   care if he fails extubation.
   - Pulmonary toilet
   - cont standing mucolytics
   - f/u BAL fluid culture
   - propofol and fentanyl gtt for sedation
   2) Facial mass:  Patient has large fungating unresectable SCC mass s/p
   brisk bleed to hematocrit of ~6.  He has been transfusion-dependent.
   ENT consultants have ruled out surgical resection of mass as
   therapeutic option given involvement of skull margins.  Now s/p
   bilateral sphenopalatine artery embolization by Neuro IR.
   -          Reconsult Neuro IR as needed for facial artery embolization
   -          Dressing changes daily, as per ENT recs
   -          Transfuse to keep hct > 25 if bleeding, 21-24 if not
   bleeding significantly
   -          RadOnc to evaluate for palliative radiation once patient is
   able to participate in decision making ([**Pager number 4404**])
   -          Heme/Onc following
   -          Palliative Care following
   3)   Wound infection:  Facial mass with culture data from OSH positive
   for acinetobacter, enterobacter cloacae, and MSSA.   He was previously
   treated with ciprofloxacin and clindamycin, now covered with
   Vanc/Zosyn.
   4)  Leukocytosis:  Likely leukemoid reaction vs. infection.
   - continue to trend
   5) Hypercalcemia:  Likely secondary a paraneoplastic process as humoral
   hypercalcemia of malignancy by secretion of PTHrP is commonly seen in
   squamous cell carcinoma of the head and neck.
   - IV hydration
   - trend Ca
   6) RUE edema: Suspected superficial thrombophlebibis vs. upper
   extremity DVT.  Patient is not a candidate for anticoagulation under
   any circumstances, given facial hemorrhage; thus, no further work-up at
   this time to evaluate for clot.
   - Supportive care with arm elevation, warm compresses, removal of PIV
   7) FEN:
   - cont tube feeds
   8) PPx: pneumoboots, PPI
   9) CODE: DNR.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-3-20**] 01:39 AM 65 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-20**] 12:00 AM
   20 Gauge - [**2198-3-20**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2198-03-20 11:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Multiple desaturations on [**10-22**]. Not able to tolerate 0.5 FiO2. No BM
   since admit. Tm 101.4. Got 1U PRBCs.
 URINE CULTURE - At [**2198-3-19**] 03:15 PM
 FEVER - 101.4
F - [**2198-3-19**] 06:00 PM
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-20**] 08:00 AM
   Piperacillin - [**2198-3-20**] 10:00 AM
   Infusions:
   Fentanyl - 15 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-20**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.3
   HR: 62 (59 - 94) bpm
   BP: 98/47(59) {87/36(49) - 123/68(80)} mmHg
   RR: 21 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  2,923 mL
                                                                  1,858 mL
   PO:
             TF:
                                                                    480 mL
                                                                    747 mL
   IVF:
                                                                  1,358 mL
                                                                    861 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,380 mL
                                                                  1,355 mL
   Urine:
                                                                  3,380 mL
                                                                  1,355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -457 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 720 (395 - 720) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   398 K/uL
   138 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   26.2 %
   42.7 K/uL
        [image002.jpg]
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
                             [**2198-3-17**]  10:02 AM
                             [**2198-3-17**]  03:40 PM
                             [**2198-3-18**]  03:23 AM
                             [**2198-3-18**]  04:40 PM
                             [**2198-3-19**]  03:30 AM
                             [**2198-3-19**]  04:32 PM
                             [**2198-3-20**]  04:06 AM
   WBC
   39.0
   41.4
   39.7
   43.1
   42.7
   Hct
   22.9
   24.0
   24.6
   25.1
   24.8
   24.4
   23.3
   25.5
   26.2
   Plt
   348
   339
   364
   394
   398
   Cr
   0.9
   0.7
   0.7
   0.7
   0.7
   TCO2
   27
   Glucose
   108
   105
   118
   121
   138
   Other labs: PT / PTT / INR:14.1/31.0/1.2, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 CANCER (MALIGNANT NEOPLASM), OTHER
   1. HAP vs. VAP: Secretions from ETT improved
   -d6/8 vanco and zosyn
   -readdress GOC at meeting today
   2. SCC: No bleeding currently, hct stable
   -f/u Rad Onc recs
   3. Wound infec:
   -covered by vanco/zosyn
   4. Leukocytosis: Leukomoid reaction
   -stable
   5. RUE swelling, may have UE DVT, but not a candidate for
   anticoagulation
   6. FEN: TF
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-3-20**] 01:39 AM 65 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-3-20**] 12:00 AM
   20 Gauge - [**2198-3-20**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   57 year old male with large, uncurable and unsurgically respectable
   squamous cell carcinoma of the face.  He was intubated for procedure to
   cauterize sphenopalatine artery bleed however now remains intubated
   because of pneumonia and inability to wean from ventilator.
   T 101  P 79  BP 118/56   RR 20  Sat 94%
   On exam, large right sided facial tumor, ETT in place.
   Lungs: CTA
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Neuro: awake, alert
   A:
   1)       Respiratory Failure
   2)       Pneumonia
   3)       Squamous Cell Carcinoma
 incurable
   Plan:
   1)       Family Meeting to discuss goals of care
   2)       Extubate
   Discussion: Held family meeting to explain that medical therapy
   becoming futile as carcinoma is incurable and not  a good candidate for
   trach and prolonged ventilator support given his underlying condition.
   Held discussion with patient as well and ultimately extubated the
   patient.  After extubation, Dr. [**First Name (STitle) 1068**] held long discussion with the
   patient in which he ultimately changed his code status to DNR/DNI which
   is reasonable given the circumstance of his disease.
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2198-3-20**] 19:13 ------

2198-03-21 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient was DNR/I after family meeting and was successfully
   extubated.
   - Heme/onc signed off as there is no utility for palliative
   chemotherapy
   - He received 0.25 mg dilaudid x 2 for facial pain
   - patient is refusing blood draws
 FEVER - 101.1
F - [**2198-3-20**] 12:00 PM
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-20**] 07:34 PM
   Piperacillin - [**2198-3-21**] 02:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-21**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.8
   HR: 78 (59 - 98) bpm
   BP: 124/61(77) {98/47(59) - 134/73(87)} mmHg
   RR: 23 (11 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  2,363 mL
                                                                    178 mL
   PO:
             TF:
                                                                    911 mL
   IVF:
                                                                  1,202 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                  1,645 mL
   Urine:
                                                                  3,355 mL
                                                                  1,445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -992 mL
                                                                 -1,467 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 380 (380 - 720) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 14.2 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: large right facial mass with dressing intact
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   398 K/uL
   8.8 g/dL
   138 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   26.2 %
   42.7 K/uL
        [image002.jpg]
                             [**2198-3-16**]  04:35 AM
                             [**2198-3-16**]  03:19 PM
                             [**2198-3-17**]  03:57 AM
                             [**2198-3-17**]  10:02 AM
                             [**2198-3-17**]  03:40 PM
                             [**2198-3-18**]  03:23 AM
                             [**2198-3-18**]  04:40 PM
                             [**2198-3-19**]  03:30 AM
                             [**2198-3-19**]  04:32 PM
                             [**2198-3-20**]  04:06 AM
   WBC
   39.0
   41.4
   39.7
   43.1
   42.7
   Hct
   22.9
   24.0
   24.6
   25.1
   24.8
   24.4
   23.3
   25.5
   26.2
   Plt
   348
   339
   364
   394
   398
   Cr
   0.9
   0.7
   0.7
   0.7
   0.7
   TCO2
   27
   Glucose
   108
   105
   118
   121
   138
   Other labs: PT / PTT / INR:14.1/31.0/1.2, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:10.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   57 y/o M with large R face SCC s/p hemorrhage from facial mass.
   1) Ventilator-associated pneumonia:  Patient electively underwent
   nasotracheal intubation in preparation for facial embolization
   procedure, now intubated >7 days with difficulty weaning from vent.
   Patient sustained left lung collapse on [**2-12**] with subsequent
   bronchoscopy that revealed thick, copious secretions.  Secretions
   continue to limit ventilator independence.   Currently he is on
   vancomycin/zosyn (day #6 of 8) for VAP (start date [**3-15**]).
   - Continue conversation with family regarding transition to comfort
   care if he fails extubation.
   - Pulmonary toilet
   - cont standing mucolytics
   - f/u BAL fluid culture
   - propofol and fentanyl gtt for sedation
    2) Facial mass:  Patient has large fungating unresectable SCC mass s/p
   brisk bleed to hematocrit of ~6.  He has been transfusion-dependent.
   ENT consultants have ruled out surgical resection of mass as
   therapeutic option given involvement of skull margins.  Now s/p
   bilateral sphenopalatine artery embolization by Neuro IR.
   -          Reconsult Neuro IR as needed for facial artery embolization
   -          Dressing changes daily, as per ENT recs
   -          Transfuse to keep hct > 25 if bleeding, 21-24 if not
   bleeding significantly
   -          RadOnc to evaluate for palliative radiation once patient is
   able to participate in decision making ([**Pager number 4404**])
   -          Heme/Onc following
   -          Palliative Care following
   3)   Wound infection:  Facial mass with culture data from OSH positive
   for acinetobacter, enterobacter cloacae, and MSSA.   He was previously
   treated with ciprofloxacin and clindamycin, now covered with
   Vanc/Zosyn.
   4)  Leukocytosis:  Likely leukemoid reaction vs. infection.
   - continue to trend
   5) Hypercalcemia:  Likely secondary a paraneoplastic process as humoral
   hypercalcemia of malignancy by secretion of PTHrP is commonly seen in
   squamous cell carcinoma of the head and neck.
   - IV hydration
   - trend Ca
   6) RUE edema: Suspected superficial thrombophlebibis vs. upper
   extremity DVT.  Patient is not a candidate for anticoagulation under
   any circumstances, given facial hemorrhage; thus, no further work-up at
   this time to evaluate for clot.
   - Supportive care with arm elevation, warm compresses, removal of PIV
    7) FEN:
   - cont tube feeds
    8) PPx: pneumoboots, PPI
   9) CODE: DNR.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2198-3-20**] 12:00 AM
   18 Gauge - [**2198-3-20**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: